US07648989B2
3-(7-Methyl-1H-indol-3-yl)-4-[5-(4-methyl-piperazin-1-yl)-pyridin-3-yl]-pyrrole-2,5-dione
2-[5-(4-Methyl-piperazin-1-yl)-pyridin-3-yl]-acetamide (150 mg, 0.64 mmol) and (7-methyl-1H-indol-3-yl)-oxo-acetic acid methyl ester (209 mg, 0.96 mmol) are dissolved under an atmosphere of argon in a mixture of dry DMF (2 ml) and dry THF (2 ml). A solution of 1.0 M KOtBu in THF (1.9 ml, 1.9 mmol) is then added at RT. After 1 h at 50° C., TLC analysis indicated complete conversion of starting materials. The reaction mixture is diluted with EtOAc and poured into a saturated aqueous NH4Cl solution. The organic layer is separated, washed with brine, dried over Na2SO4, and the organic solvent is evaporated. The residue is purified by FCC (EtOAc/AcOH/H2O 600:115:150) to afford the title compound. 1H NMR (d6-DMSO 400 MHz): δ 2.15 (s, 3H), 2.28-2.32 (m, 2H), 2.92-3.00 (m, 2H), 3.15 (s, 3H), 6.21 (d, J=9 Hz, 1H), 6.64 (t, J=9 Hz, 1H), 6.88 (d, J=9 Hz, 1H), 7.22 (s, 1H), 7.98 (br s, 1H), 8.20-8.22 (m, 1H). ES+−MS: 402.6 [M+H]+.

reactant | 2-[5-(4-Methyl-piperazin-1-yl)-pyridin-3-yl]-acetamide | 0.64 mmol, 150 mg | CN1CCN(CC1)C=1C=C(C=NC1)CC(=O)N | C12H18N4O
reactant | (7-methyl-1H-indol-3-yl)-oxo-acetic acid methyl ester | 0.96 mmol, 209 mg | COC(C(=O)C1=CNC2=C(C=CC=C12)C)=O | C12H11NO3
reactant | KOtBu | 1.0 M | CC(C)(C)[O-].[K+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 1.9 mmol, 1.9 ml | C1CCOC1 | C4H8O
product | 3-(7-Methyl-1H-indol-3-yl)-4-[5-(4-methyl-piperazin-1-yl)-pyridin-3-yl]-pyrrole-2,5-dione | CC=1C=CC=C2C(=CNC12)C=1C(NC(C1C=1C=NC=C(C1)N1CCN(CC1)C)=O)=O | C23H23N5O2
